US06649759B2
To a solution of 4-(7-chloro-5-methyl-pyrazolo[1,5-a]pyrimidin-2-yl)-benzoic acid methyl ester (15.1 mmol) in 1-methyl-2-pyrrolidinone (50 ml) was added pyrrolidine (151 mmol) and the reaction heated at 80° C. for 72 hours. The resultant solid precipitate was filtered and dried under vacuum, then dissolved in 10% NaOH and the aqueous phase washed with ethyl acetate, acidified with conc. HCl, and the resultant precipitated white solid filtered and dried under vacuum to afford 4-(5-Methyl-7-pyrrolidin-1-yl-pyrazolo[1,5-a]pyrimidin-2-yl)-benzoic acid. (3.9 g, 80% yield) MS m/z @323 (m+1).

reactant | 4-(7-chloro-5-methyl-pyrazolo[1,5-a]pyrimidin-2-yl)-benzoic acid methyl ester | 15.1 mmol | COC(C1=CC=C(C=C1)C1=NN2C(N=C(C=C2Cl)C)=C1)=O | C15H12ClN3O2
reactant | pyrrolidine | 151 mmol | N1CCCC1 | C4H9N
solvent | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(5-Methyl-7-pyrrolidin-1-yl-pyrazolo[1,5-a]pyrimidin-2-yl)-benzoic acid | 80% yield | CC1=NC=2N(C(=C1)N1CCCC1)N=C(C2)C2=CC=C(C(=O)O)C=C2 | C18H18N4O2
